US05244889
Ethyl 3-(trimethylsilylmethyl)-3-hydroxy-2-oxo-1-azacyclodecane-10-carboxylate (0.98 g, 2.98 mmol) is dissolved in methylene chloride (50 mL), and boron trifluoride etherate (1.8 mL, 15 mmol) is added. The reaction is stirred at room temperature for 26 hours. The reaction is then quenched with saturated ammonium chloride and extracted several times with methylene chloride. The combined organic layers are dried (MgSO4), and the solvent is evaporated. The product is purified by silica gel chromatography (20% ethyl acetate/hexane) to give ethyl 3-methylidene-2-oxo-1-azacyclodecane-10-carboxylate, m.p. 91°-92° C.

reactant | Ethyl 3-(trimethylsilylmethyl)-3-hydroxy-2-oxo-1-azacyclodecane-10-carboxylate | 2.98 mmol, 0.98 g | C[Si](C)(C)CC1(C(NC(CCCCCC1)C(=O)OCC)=O)O | C16H31NO4Si
reactant | boron trifluoride etherate | 15 mmol, 1.8 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-methylidene-2-oxo-1-azacyclodecane-10-carboxylate | C=C1C(NC(CCCCCC1)C(=O)OCC)=O | C13H21NO3
